US06573286B1
(2R)-1-(4-bromophenyl)-2-hydroxypropan-1-one
A 50 mL round bottom flask equipped with a magnetic stir bar, nitrogen gas inlet, and thermocouple was charged with (2S,3S)-2-(4-bromophenyl)-3-methyloxiran-2-yl acetate (490 mg, 1.81 mmol) and methanol (20 mL), and the reaction mixture was cooled to 0° C. in an ice/water bath. Potassium carbonate (15 mg, 0.1 mmol) was added, and the mixture was stirred at 0° C. for 3 hours. The reaction mixture was concentrated and purified by column chromatography to give the product as an oil (208 mg, 50%): 1H NMR (CDCl3) δ 7.79 (d, 2H, J=8.4 Hz), 7.65 (d, 2H, J=8.8 Hz), 5.10 (q, 1H, J=7.0 Hz), 3.73 (bs, 1H), 1.44 (d, 3H, J=7.0Hz).

reactant | (2S,3S)-2-(4-bromophenyl)-3-methyloxiran-2-yl acetate | 1.81 mmol, 490 mg | C(C)(=O)O[C@@]1(O[C@H]1C)C1=CC=C(C=C1)Br | C11H11BrO3
reactant | Potassium carbonate | 0.1 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | (2R)-1-(4-bromophenyl)-2-hydroxypropan-1-one | 208 mg, 50% | BrC1=CC=C(C=C1)C([C@@H](C)O)=O | C9H9BrO2
